data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cccc(Cl)c1Cl)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(Cl)c1Cl)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(Cl)c1Cl)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cccc(Cl)c1Cl)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cccc(Cl)c1Cl)C2(C)C", "products": "C[C+]1C2(c3cccc(Cl)c3Cl)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cccc(Cl)c3Cl)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cccc(Cl)c2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(Cl)c2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(Cl)c2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(Cl)c2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cccc(Cl)c2Cl)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cccc(Cl)c2Cl)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cccc(Cl)c3Cl)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cccc(Cl)c3Cl)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cccc(Cl)c3Cl)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(C(=O)C2C3CCC2C3)c(Cl)c1", "products": "COc1ccc([C]([O])C2C3CCC2C3)c(Cl)c1"}, {"reactants": "COc1ccc([C]([O])C2C3CCC2C3)c(Cl)c1", "products": "COc1ccc(C([O])=CC2C[CH]CC2)c(Cl)c1"}, {"reactants": "COc1ccc(C([O])=CC2C[CH]CC2)c(Cl)c1", "products": "COc1ccc(C(O)=CC2C=CCC2)c(Cl)c1"}, {"reactants": "COc1ccc(C(O)=CC2C=CCC2)c(Cl)c1", "products": "COc1ccc(C(=O)CC2C=CCC2)c(Cl)c1"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(F)C2CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(F)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(F)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(F)CC1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(F)CC1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(F)CC1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(Cl)c(Br)c(N(C)C(=O)C2=CCCC2)c1.[Pd]", "products": "COc1cc(Cl)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1"}, {"reactants": "COc1cc(Cl)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1", "products": "COc1cc(Cl)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1cc(Cl)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1cc(Cl)c2c(c1)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)C)c2F", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4c(cc([Si](C)(C)C)c([Si](C)(C)C)c4F)CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12COC(C)(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12COC(C)(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "COC12COC(C)(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)O2.[O-]C", "products": "COC12COC(C)(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2"}, {"reactants": "COC12COC(C)(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)O2", "products": "COC12COC(C)(O1)C1C(=O)C12"}, {"reactants": "COC12COC(C)(O1)C1C(=O)C12.[O-]C", "products": "COC12COC(C)(O1)C1C2C1([O-])OC"}, {"reactants": "COC12COC(C)(O1)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2(OC)COC1(C)O2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(OC)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(OC)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(OC)C(OC)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(OC)C(OC)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(OC)C(OC)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(OC)C(OC)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccc(F)c(C(=O)C2C3CCC2C3)c1", "products": "Cc1ccc(F)c([C]([O])C2C3CCC2C3)c1"}, {"reactants": "Cc1ccc(F)c([C]([O])C2C3CCC2C3)c1", "products": "Cc1ccc(F)c(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "Cc1ccc(F)c(C([O])=CC2C[CH]CC2)c1", "products": "Cc1ccc(F)c(C(O)=CC2C=CCC2)c1"}, {"reactants": "Cc1ccc(F)c(C(O)=CC2C=CCC2)c1", "products": "Cc1ccc(F)c(C(=O)CC2C=CCC2)c1"}]}
